### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/Blocks): more on blocks

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
- Some basic results on invariant blocks.
- The set of blocks containing a given element is a bounded order

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 1]
```diff
@@ -103,6 +105,57 @@ Note: It is not necessarily a block when the action is not by a group. -/
 Note: It is not necessarily a block when the action is not by a group."]
 def IsTrivialBlock (B : Set X) := B.Subsingleton ∨ B = univ
 
+variable {M α N β : Type*}
+
+section monoid
+
+variable [Monoid M] [MulAction M α] [Monoid N] [MulAction N β]
+
+
```
Comment (AntoineChambert-Loir) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:114]:
```suggestion
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 2]
```diff
@@ -561,6 +615,45 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
       apply hB'.smul_eq_of_mem ha'
       exact hBB' <| hgB.symm ▸ (Set.smul_mem_smul_set ha)
 
+/-- The set of blocks for a group action containing a given element is a bounder order -/
+@[to_additive
+"The set of blocks for an additive group action containing a given element is a bounded order"]
+instance Block.boundedOrderOfMem (a : X) :
+    BoundedOrder { B : Set X // a ∈ B ∧ IsBlock G B } where
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:622]: How much more do you think you'll use this subtype? Do you think it's worth making it a definition?

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:624]: It is used to reformulate primitive actions in terms of the simplicity of this order.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:624]: which by the equivalence between that order and the one of subgroups containing the stabilizer of a shows that primitive actions is related to the maximality of that subgroup.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:624]: (of course, those statements can be formulated with less formalism)

Comment (YaelDillies) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:623]: Yeah okay, I think you could define `abbrev BlockMem : Type _ := {B : Set X // a ∈ B ∧ IsBlock G B}`

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 3]
```diff
@@ -561,6 +619,47 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
       apply hB'.smul_eq_of_mem ha'
       exact hBB' <| hgB.symm ▸ (Set.smul_mem_smul_set ha)
 
+/-- The type of blocks for a group action containing a given element -/
+@[to_additive
+"The type of blocks for an additive group action containing a given element"]
+abbrev BlockMem (a : X) : Type _ := {B : Set X // a ∈ B ∧ IsBlock G B}
+
+/-- The type of blocks for a group action containing a given element is a bounder order -/
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:627]:
```suggestion
namespace BlockMem

/-- The type of blocks for a group action containing a given element is a bounder order -/
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 4]
```diff
@@ -561,6 +619,47 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+@[to_additive
+"The type of blocks for an additive group action containing a given element is a bounded order"]
+instance BlockMem.boundedOrder (a : X) : BoundedOrder (BlockMem G a) where
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:630]:
```suggestion
instance (a : X) : BoundedOrder (BlockMem G a) where
```
(the algorithm will get this one right)

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 5]
```diff
@@ -561,6 +619,47 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+  bot := ⟨{a}, Set.mem_singleton a, IsBlock.singleton⟩
+  bot_le := by
+    rintro ⟨B, ha, hB⟩
+    simp only [Subtype.mk_le_mk, Set.le_eq_subset, Set.singleton_subset_iff]
+    exact ha
+
+@[to_additive]
+theorem Block.boundedOrderOfMem.top_eq (a : X) :
+    ((BlockMem.boundedOrder G a).top : Set X) = ⊤ :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:644]:
```suggestion
@[to_additive (attr := simp, norm_cast)]
theorem coe_top (a : X) : ((⊤ : BlockMem G a) : Set X) = ⊤ := rfl
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 6]
```diff
@@ -561,6 +619,47 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+
+@[to_additive]
+theorem Block.boundedOrderOfMem.bot_eq (a : X) :
+    ((BlockMem.boundedOrder G a).bot : Set X) = {a} :=
+  rfl
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:649]:
```suggestion
@[to_additive (attr := simp, norm_cast)]
theorem coe_bot (a : X) : ((⊥ : BlockMem G a) : Set X) = {a} := rfl
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 7]
```diff
@@ -561,6 +619,51 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+"The type of blocks for an additive group action containing a given element"]
+abbrev BlockMem (a : X) : Type _ := {B : Set X // a ∈ B ∧ IsBlock G B}
+
+namespace BlockMem
+
+/-- The type of blocks for a group action containing a given element is a bounder order -/
+@[to_additive
+"The type of blocks for an additive group action containing a given element is a bounded order"]
+instance (a : X) : BoundedOrder (BlockMem G a) where
+  top := ⟨⊤, Set.mem_univ a, IsBlock.univ⟩
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:633]:
```suggestion
  top := ⟨⊤, Set.mem_univ a, .univ⟩
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+
